US07470664B2
N-{[(1-But-3-en-1-ylcyclobutyl)methoxy]carbonyl}-3-methyl-L-valine was prepared according to the procedure for N-{[(2,2-dimethylhex-5-enyl)oxy]carbonyl}-3-methyl-L-valine by using ethyl cyclobutanecarboxylate instead of ethyl isobutyrate in Step 1. LRMS (ESI) m/z 298.3 [(M+H)+; calcd for C16H28NO4: 298.2].

reactant | N-{[(2,2-dimethylhex-5-enyl)oxy]carbonyl}-3-methyl-L-valine | CC(COC(=O)N[C@@H](C(C)(C)C)C(=O)O)(CCC=C)C | C15H27NO4
reactant | ethyl cyclobutanecarboxylate | C1(CCC1)C(=O)OCC | C7H12O2
product | N-{[(1-But-3-en-1-ylcyclobutyl)methoxy]carbonyl}-3-methyl-L-valine | C(CC=C)C1(CCC1)COC(=O)N[C@@H](C(C)(C)C)C(=O)O | C16H27NO4
